US09193693B2
Step 3. Methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate
Into a 100-mL round-bottom flask, was placed methyl 2-(4-fluorophenyl)-3-oxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate (1.2 g, 4.00 mmol, 1.00 equiv), POCl3 (12.2 g, 80.26 mmol, 20.00 equiv), N,N-dimethylbenzenamine (4.9 g, 40.50 mmol, 10.00 equiv). The resulting solution was stirred for overnight at 110° C. in an oil bath. The resulting mixture was concentrated under vacuum and diluted with 50 mL of water. The pH value of the aqueous solution was adjusted to 7 with sodium bicarbonate (4 mol/L). The resulting mixture was concentrated under vacuum and purified by silica gel chromatography with ethyl acetate/petroleum ether (1:40).

reactant | methyl 2-(4-fluorophenyl)-3-oxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate | 4.00 mmol, 1.2 g, 1.00 equiv | FC1=CC=C(C=C1)C1NC2=CC=C(C=C2NC1=O)C(=O)OC | C16H13FN2O3
reactant | POCl3 | 80.26 mmol, 12.2 g, 20.00 equiv | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylbenzenamine | 40.50 mmol, 4.9 g, 10.00 equiv | CN(C1=CC=CC=C1)C | C8H11N
product | Methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
